US07645778B2
N-Ethyl-3-methoxybenzamide
To a solution of 3-methoxybenzoyl chloride (commercially available from Aldrich, 5 mL, 35 mol) and Et3N (10 mL) in 100 mL of DCM was added and EtNH2 (2 M/THF, 30 mL, 60 mmol) dropwise for 30 min at 0° C. and the resulting solution was stirred for additional 1 h. The reaction mixture was washed with aq. NaHCO3 and brine, consecutively. The organic layer was dried over Na2SO4 and concentrated in vacuo, yielding oily residue, which was subjected to column chromatography to yield Example A175a (6.2 g, >95%) as a colorless oil.

reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
reactant | EtNH2 | 60 mmol, 2 M, 30 mL | C(C)N | C2H7N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-Ethyl-3-methoxybenzamide | C(C)NC(C1=CC(=CC=C1)OC)=O | C10H13NO2
